US05236987
Preparation of Isodecyl Benzoate
Isodecyl alcohol (306 grams; 1.94 moles), benzoic acid (242 grams; 1.98 moles), toluene (50 ml) and butyltinoxide hydrate (1 gram) were placed into a glass reaction flask equipped with stirrer, thermometer, heating mantle, 12" column packed with 1/4" glass rings, Dean-Stark water trap and condenser. The mixture was stirred for four hours allowing the temperature to increase from 30° C. to 204° C. After reaction mixture was cooled to 100° C., soda ash (100 ml; 20% solution) was added and the temperature increased from 65° to 95° C. After ten minutes, the alkaline bottom layer was separated and a mixture of soda ash (50 ml; 20% solution) and chlorox (140 ml) added to the reaction mixture. After the bottom layer was removed, the mixture was dried and the toluene was removed by heating to 182° C. at 45 mmHg. The desired product (491 grams) was obtained after filtration representing a yield of 96.7%.

reactant | Isodecyl alcohol | 1.94 moles, 306 grams | C(CCCCCCC(C)C)O | C10H22O
reactant | benzoic acid | 1.98 moles, 242 grams | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | butyltinoxide hydrate | 1 gram | O.C(CCC)[Sn]=O
solvent | water | O | H2O
product | Isodecyl Benzoate | 491 grams, yield of 96.7% | C(C1=CC=CC=C1)(=O)OCCCCCCCC(C)C | C17H26O2
